US05399564
4-Amino-8-fluoroquinoline
To a solution at 15°-20° C. of 4-azido-8-fluoroquinoline in 12 mL of absolute ethanol was added a portion of 0.57 g (0.015 mol) of sodium borohydride. A powerful exotherm with vigorous evolution of gas was observed. The solution was cooled in ice and the remainder of the hydride was added in small portions within five minutes. The ice bath was then removed. After about two hours, the mixture was poured into about 200 mL of ice water. The precipitate was collected and air dried overnight. Yield 1.35 g. M.P. 184°-186° C.

reactant | 4-azido-8-fluoroquinoline | N(=[N+]=[N-])C1=CC=NC2=C(C=CC=C12)F | C9H5FN4
reactant | sodium borohydride | 0.015 mol, 0.57 g | [BH4-].[Na+]
reactant | hydride | [H-]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 4-Amino-8-fluoroquinoline | NC1=CC=NC2=C(C=CC=C12)F | C9H7FN2
